US08034812B2
Production of N-{2-fluoro-5-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide dihydrochloride
To N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide (1.05 mg, 2.33 mmol) was added 10% hydrogen chloride methanol solution (120 mL), and the mixture was stirred at 50° C. for 44 hr. The solvent was evaporated under reduced pressure. To a half of the residue were added (4-methylpiperazin-1-yl)acetic acid (205 mg, 1.30 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (284 mg, 1.48 mmol), 1-hydroxybenzotriazole (167 mg, 1.24 mmol), N-ethyldiisopropylamine (0.60 mL, 3.51 mmol) and N,N-dimethylformamide (10 mL), and the mixture was stirred at room temperature for 11 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→70/30) and the objective fraction was concentrated under reduced pressure. The residue was dissolved in methanol and treated with a 4N hydrogen chloride ethyl acetate solution to give the title compound (43 mg, 6%) as a white powder.

reactant | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 2.33 mmol, 1.05 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | C22H20FN7O3
reactant | hydrogen chloride methanol | 120 mL | CO.Cl
reactant | (4-methylpiperazin-1-yl)acetic acid | 1.30 mmol, 205 mg | CN1CCN(CC1)CC(=O)O | C7H14N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.48 mmol, 284 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.24 mmol, 167 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyldiisopropylamine | 3.51 mmol, 0.60 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-{2-fluoro-5-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide dihydrochloride | 43 mg, 6% | Cl.Cl.FC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(CN2CCN(CC2)C)=O)NC(=O)C2=CC(=NN2C)C | InChI=1S/C25H28FN9O3.2ClH/c1-16-12-20(33(3)30-16)25(37)27-19-13-17(4-5-18(19)26)38-24-7-6-22-28-21(14-35(22)31-24)29-23(36)15-34-10-8-32(2)9-11-34;;/h4-7,12-14H,8-11,15H2,1-3H3,(H,27,37)(H,29,36);2*1H
